US05344843
A mixture of 4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-ol (1.84 g), ethylene carbonate (0.78 g) and tetraethylammonium iodide (0.68 g) was heated in an oil bath at 155° C. for 2 hours, then was cooled and taken up in dichloromethane. The solution was washed in turn with water, 1N sodium hydroxide, 1N hydrochloric acid and brine, then was dried (MgSO4) and evaporated. The residual material was chromatographed over 70 g of silica gel (ethyl acetate-hexane; 3:7) to provide 0.57 g of 2-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yloxy]ethanol. The compound was crystallized from hexane to give the analytical sample, mp 77°-78° C.

reactant | 4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-ol | 1.84 g | FC1=CC=C(C=C1)C=1C(=C(C=CC1)C(C)C)O | C15H15FO
reactant | ethylene carbonate | 0.78 g | C1(OCCO1)=O | C3H4O3
catalyst | tetraethylammonium iodide | 0.68 g | [I-].C(C)[N+](CC)(CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yloxy]ethanol | 0.57 g | FC1=CC=C(C=C1)C1=C(C(=CC=C1)C(C)C)OCCO | C17H19FO2
